US06800778B1
(3) Production of 1-(1-hydroxy-1-phenylmethyl)-1-hydroxymethylcyclopentane
Lithium aluminum hydride (1.05 g, 27.6 mmol) was suspended in ether (80 ml) and the mixture was cooled to −20° C. to −30° C. Thereto was added dropwise a solution of ethyl 1-(1-hydroxyphenylmethyl)cyclopentanecarboxylate (14.118.4 mmol) in ether (10 ml) while maintaining the solution at not higher than −20° C. The mixture was stirred at −20° C. for 1 h and at room temperature for 3 h, cooled to −20° C. and 10% NaHSO4 aqueous solution (40 ml) was added dropwise. The mixture was stirred at 0° C. for 30 min and an insoluble material was removed by decantation. This was washed twice with ether (100 ml), and the organic layer was combined, washed with water and dried over anhydrous sodium sulfate. This was concentrated to dryness to give a colorless oil (3.12 g).

reactant | Lithium aluminum hydride | 27.6 mmol, 1.05 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 1-(1-hydroxyphenylmethyl)cyclopentanecarboxylate | OC1(CC=CC=C1)CC1(CCCC1)C(=O)OCC | C15H22O3
reactant | NaHSO4 | 40 ml | OS(=O)(=O)[O-].[Na+]
solvent | ether | 80 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | 1-(1-hydroxy-1-phenylmethyl)-1-hydroxymethylcyclopentane | 3.12 g | OC(C1=CC=CC=C1)C1(CCCC1)CO | C13H18O2
